US06727261B2
rac-6,7-Dimethoxy-4,4-dimethyl-3,4-dihydro-isoquinoline
A solution of 1.0 g of 1,2,3,4-tetrahydro-6,7-dimethoxy-4,4-dimethyl-isoquinoline in 100 ml of ethanol is treated with 2.3 g of iodine and 0.49 g of sodium acetate and heated under reflux for 1 hour. The reaction mixture is cooled down and 30 ml of a 10% sodium thiosulphate-solution is added. The mixture is then diluted with water and extracted with dichloromethane (2×100 ml). The combined organic extracts are washed with brine, dried over sodium sulfate and concentrated in vacuo. The foamy residue is purified by chromatography (SiO2, dichloromethane-1% ammonia in methanol, 0-12%) to give the title compound as a yellowish oil (0.72 g), MS (ISP) 220.4 (M+H)+.

reactant | 1,2,3,4-tetrahydro-6,7-dimethoxy-4,4-dimethyl-isoquinoline | 1.0 g | COC=1C=C2C(CNCC2=CC1OC)(C)C | C13H19NO2
reactant | iodine | 2.3 g | II | I2
reactant | sodium acetate | 0.49 g | C(C)(=O)[O-].[Na+]
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | rac-6,7-Dimethoxy-4,4-dimethyl-3,4-dihydro-isoquinoline | 0.72 g | COC=1C=C2C(CN=CC2=CC1OC)(C)C | C13H17NO2
